US04380608
Three reactors equipped with each stirrer which respectively had capacities of 170 l., 70 l. and 60 l. were connected in series and used for a continuous polymerization in two steps. In the first and second reactors, a homopolymerization of propylene was carried out. In the third reactor, a copolymerization of propylene and ethylene was carried out. Into the first reactor, liquid propylene; hydrogen at a content of 5.5 mol % as a vapor phase hydrogen concentration; the titanium trichloride obtained in the step (B) of Preparation of catalyst 1; di-n-propylaluminum monochloride (DPA) at a molar ratio of 8 based on TiCl3 ; phenyl acetate at a molar ratio of 0.13 based on TiCl3 were charged. A polymerization temperature in the first reactor was 70° C. and an average residence time (polymerizaton time) was 4.5 hours. The reaction mixture discharged from the first reactor was fed into the second reactor and additional liquid propylene and hydrogen at a content of 6 mol % as a vapor phase hydrogen concentration were also continuously fed. A polymerization temperature in the second reactor was 67° C. and an average residence time (polymerization time) was 1.6 hours. The reaction mixture discharged from the second reactor was fed into the third reactor and liquid propylene and ethylene were continuously fed to give 65 mol % of a vapor phase propylene concentration and a vapor phase hydrogen concentration was controlled to be 3 mol %. Ethylaluminum dichloride (EADC) was charged to give a molar ratio of EADC/DPA of 0.08. A polymerization temperature in the third reactor was 45° C. and an average residence time (polymerization time) was 1.5 hours.

reactant | di-n-propylaluminum monochloride | [Cl-].C(CC)[Al+]CCC
reactant | phenyl acetate | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
reactant | propylene | C=CC | C3H6
reactant | ethylene | C=C | C2H4
product | EADC DPA | [Cl-].[Cl-].C(C)[Al+2].[Cl-].C(CC)[Al+]CCC | InChI=1S/2C3H7.C2H5.2Al.3ClH/c2*1-3-2;1-2;;;;;/h2*1,3H2,2H3;1H2,2H3;;;3*1H/q;;;+1;+2;;;/p-3
